US07446222B2
Methyl 2″-{[(4-fluorophenyl)methyl]oxy}-5-{[(2-methylpropyl)amino]carbonyl}-5″-(trifluoromethyl)-1,1′:2′,1″-terphenyl-3-carboxylate
A mixture of 2″-{[(4-fluorophenyl)methyl]oxy}-5-[(methyloxy)carbonyl]-5″-(trifluoromethyl)-1,1′:2′,1″-terphenyl-3-carboxylic acid (90 mg, 0.17 mmol), 4-methylmorpholine (34 mg, 45 μl, 0.34 mmol), 1-hydroxybenzotriazole hydrate (30 mg, 0.2 mmol), 1-(3-dimethylaminopropyl)-ethylcarbodiimide hydrochloride (38 mg, 0.2 mmol), and isobutylamine (25 mg, 34 ul, 0.34 mmol) in dichloromethane (3 ml) was stirred at room temperature for 2 hours. The mixture was diluted with ethyl acetate (10 ml), then washed with saturated NaHCO3, 2M HCl, water and brine. The organic phase was dried and evaporated. The residue was purified by chromatography in ethyl acetate/hexane (1:9-1:4) to give the title compound as a colourless solid (51 mg, 50%). LCMS: Rt=4.10 min. [M+H] 580

reactant | 2″-{[(4-fluorophenyl)methyl]oxy}-5-[(methyloxy)carbonyl]-5″-(trifluoromethyl)-1,1′:2′,1″-terphenyl-3-carboxylic acid | 0.17 mmol, 90 mg | FC1=CC=C(C=C1)COC1=C(C=C(C=C1)C(F)(F)F)C=1C(=CC=CC1)C1=CC(=CC(=C1)C(=O)OC)C(=O)O | C29H20F4O5
reactant | 4-methylmorpholine | 0.34 mmol, 45 μl, 34 mg | CN1CCOCC1 | C5H11NO
reactant | 1-hydroxybenzotriazole hydrate | 0.2 mmol, 30 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-ethylcarbodiimide hydrochloride | 0.2 mmol, 38 mg | Cl.CN(CCCC(C)N=C=N)C
reactant | isobutylamine | 0.34 mmol, 34 ul, 25 mg | C(C(C)C)N | C4H11N
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | Methyl 2″-{[(4-fluorophenyl)methyl]oxy}-5-{[(2-methylpropyl)amino]carbonyl}-5″-(trifluoromethyl)-1,1′:2′,1″-terphenyl-3-carboxylate | 51 mg, 50% | FC1=CC=C(C=C1)COC1=C(C=C(C=C1)C(F)(F)F)C=1C(=CC=CC1)C1=CC(=CC(=C1)C(=O)NCC(C)C)C(=O)OC | C33H29F4NO4
